US07288541B2
To a solution of 0.101 g (0.29 mmol) of tert-butyl (1S,2S)-2-hydroxy-1-methyl-3-[(2-pyridinylsulfonyl)amino]propylcarbamate & tert-butyl (1S,2R)-2-hydroxy-1-methyl-3-[(2-pyridinylsulfonyl)amino]propylcarbamate in 2 mL of dioxane was added 2.0 mL of a 4.0 M solution of hydrochloric acid in dioxane. The reaction mixture was stirred for 30 min, and then concentrated. This residue was dissolved in 3.0 mL of dimethylformamide and this solution was added to 0.14 g (0.29 mmol) of (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl 4-(nitro)phenyl carbonate and 1.5 mL (0.87 mmol) of diisopropylethylamine. The reaction mixture was stirred at room temperature for 16 h. A saturated solution of sodium bicarbonate was then added, followed by diethyl ether. The layers were separated, and the organic layer was dried over anhydrous magnesium sulfate, and concentrated under vacuum to afford the crude product. This crude product was purified via silica gel chromatography eluting with ethyl acetate:hexane (1:1) to afford 0.138 g (81%) of (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S,2S)-2-hydroxy-1-methyl-3-[(2-pyridinylsulfonyl)amino]propylcarbamate & (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S,2R)-2-hydroxy-1-methyl-3-[(2-pyridinylsulfonyl)amino]propylcarbamate as a colorless oil. 1H-NMR (300 MHz, CDCl3): δ 8.64 (m, 1H), 7.98–7.88 (m, 5H), 7.64–7.47 (m, 4H), 6.60 (s, 1H), 5.01–4.81 (m, 3H), 4.46, 4.42 (2s br, 1H), 4.25–4.17 (m, 2H), 3.59–3.44 (m, 2H), 3.14 (m, 1H), 1.00 (m, 12H); LC-MS 584 (M+H).

reactant | tert-butyl (1S,2S)-2-hydroxy-1-methyl-3-[(2-pyridinylsulfonyl)amino]propylcarbamate | 0.29 mmol, 0.101 g | O[C@H]([C@H](C)NC(OC(C)(C)C)=O)CNS(=O)(=O)C1=NC=CC=C1 | C14H23N3O5S
reactant | tert-butyl (1S,2R)-2-hydroxy-1-methyl-3-[(2-pyridinylsulfonyl)amino]propylcarbamate | O[C@@H]([C@H](C)NC(OC(C)(C)C)=O)CNS(=O)(=O)C1=NC=CC=C1 | C14H23N3O5S
reactant | hydrochloric acid | Cl | ClH
reactant | (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl 4-(nitro)phenyl carbonate | 0.29 mmol, 0.14 g | C(O[C@@H](C(C)(C)C)CN1N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C23H22F3N3O5
reactant | diisopropylethylamine | 0.87 mmol, 1.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S,2S)-2-hydroxy-1-methyl-3-[(2-pyridinylsulfonyl)amino]propylcarbamate | 0.138 g, 81% | O[C@H]([C@H](C)NC(O[C@@H](C(C)(C)C)CN1N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O)CNS(=O)(=O)C1=NC=CC=C1 | C26H32F3N5O5S
